*==============================================================================
* XL4067TS — 16:1 Analog Multiplexer Behavioral SPICE Model
* XINLUDA XL4067TS (TSSOP-24)
* Based on datasheet parameters at VCC = 3.3V
* ngspice-compatible version
*==============================================================================
* Key parameters (VCC=3.3V, interpolated from 4.5V datasheet):
*   Ron     ~ 200 Ω (typ), ~ 350 Ω (max)
*   Cin     5 pF per channel
*   Cout    20 pF common output
*   Ileak   ±0.1 µA
*==============================================================================

.subckt XL4067TS_CH Y Z EN VCC GND
.param Ron_nom = 200
.param Cch = 5pF
.param Cout_cm = 20pF
.param Rleak_off = 10G
.param Vth_en = 1.65

Cch_in  Y GND {Cch}
Cout_cm Z GND {Cout_cm}
Rleak   Y Z {Rleak_off}

* Switch: when EN < Vth_en, connect with Ron; else high-Z
* B-source as voltage-controlled resistor: I = (V(Y)-V(Z)) / R_effective
Bswitch Y Z I = (V(Y)-V(Z)) / ( {Ron_nom} + {Rleak_off} * u(V(EN)-{Vth_en}) + 1e-12 )

.ends XL4067TS_CH

*==============================================================================
* XL4067TS_SINGLE — Simplified active-channel model for signal chain
* Assumes EN=0 (channel selected), ON with Ron=200
*==============================================================================
.subckt XL4067TS_SINGLE IN OUT EN VCC GND
.param Ron = 200
.param Cch = 5pF
.param Cout = 20pF

C1  IN GND {Cch}
C2  OUT GND {Cout}

* R_eff = Ron when EN < 1V, else 10G
Bswitch OUT IN I = (V(OUT)-V(IN)) / ( {Ron} + 1e10 * u(V(EN)-1.0) + 1e-12 )

.ends XL4067TS_SINGLE

*==============================================================================
* XL4067TS_MUX_BANK — 4-channel subset for crosstalk simulations
* IN1..IN4 = analog inputs, OUT = common output
* SEL0,SEL1 = 2-bit channel select (0-3), EN = enable
*==============================================================================
.subckt XL4067TS_MUX_BANK IN1 IN2 IN3 IN4 OUT SEL0 SEL1 EN VCC GND
.param Ron  = 200
.param Cch  = 5pF
.param Cout = 20pF
.param RhiZ = 1e10

C1  IN1 GND {Cch}
C2  IN2 GND {Cch}
C3  IN3 GND {Cch}
C4  IN4 GND {Cch}
Cout OUT GND {Cout}

* Channel selection: 2-bit binary SEL1:SEL0
* CH_SEL = SEL0 + 2*SEL1 → 0=IN1, 1=IN2, 2=IN3, 3=IN4
* CH0 active when EN<1 AND SEL=0
B_ch0 N_CH0 GND V = u(1.0-V(EN)) * u(0.6-V(SEL0)) * u(0.6-V(SEL1))
B_ch1 N_CH1 GND V = u(1.0-V(EN)) * u(V(SEL0)-0.9) * u(0.6-V(SEL1))
B_ch2 N_CH2 GND V = u(1.0-V(EN)) * u(0.6-V(SEL0)) * u(V(SEL1)-0.9)
B_ch3 N_CH3 GND V = u(1.0-V(EN)) * u(V(SEL0)-0.9) * u(V(SEL1)-0.9)

* Channel conductances
Bsw1 OUT IN1 I = V(N_CH0) * (V(OUT)-V(IN1)) / ({Ron}+1e-12)
Bsw2 OUT IN2 I = V(N_CH1) * (V(OUT)-V(IN2)) / ({Ron}+1e-12)
Bsw3 OUT IN3 I = V(N_CH2) * (V(OUT)-V(IN3)) / ({Ron}+1e-12)
Bsw4 OUT IN4 I = V(N_CH3) * (V(OUT)-V(IN4)) / ({Ron}+1e-12)

.ends XL4067TS_MUX_BANK
